US06521754B2
Furan-2-carboxylic acid (4-methoxy-benzothiazol-2-yl)-amide
Using 2-amino-4-methoxy-benzothiazole and furan-2-carboxylic acid chloride in pyridine the title compound was obtained as a tan solid (400% yield), MS: m/e=274.1 (M+).

reactant | 2-amino-4-methoxy-benzothiazole | NC=1SC2=C(N1)C(=CC=C2)OC | C8H8N2OS
reactant | furan-2-carboxylic acid chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Furan-2-carboxylic acid (4-methoxy-benzothiazol-2-yl)-amide | COC1=CC=CC2=C1N=C(S2)NC(=O)C=2OC=CC2 | C13H10N2O3S
